US04897392
2,13-Dichloroindolo[1,2-d][1,4]benzodiazepin-6(7H)-one
A solution of 2.08 g N-chlorosuccinimide in 50 ml dimethylformamide was added dropwise at 15° C. to a solution of 4.00 g 2-chloroindolo[1,2-d][1,4]benzodiazepin-6(7H)-one in 125 ml dimethylformamide. The solution was stirred for two hours at room temperature. Upon dilution with water, a solid precipitated, which was collected and washed with hexane. Recrystallization from toluene yielded 2.67 g solid, m.p. 267°-271° C.

reactant | N-chlorosuccinimide | 2.08 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 2-chloroindolo[1,2-d][1,4]benzodiazepin-6(7H)-one | 4.00 g | ClC=1C=CC2=C(C=3N(CC(N2)=O)C=2C=CC=CC2C3)C1 | C16H11ClN2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
product | 2,13-Dichloroindolo[1,2-d][1,4]benzodiazepin-6(7H)-one | 2.67 g | ClC=1C=CC2=C(C=3N(CC(N2)=O)C=2C=CC=CC2C3Cl)C1 | C16H10Cl2N2O
